US07713993B2
Synthesis of 3-(4-fluorophenyl)-3-methoxy-3-(5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-2H-[1,2,4]triazol-3-yl)propan-1-ol
A solution of 2-(4-fluorophenyl)-4-hydroxy-2-methoxybutyric acid hydrazide (40 mg) in ethanol (1.6 mL) was added to a solution of ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride (65 mg) and TEA (0.12 mL) in ethanol (0.7 mL), and the reaction solution was stirred at 75° C. for two days. The reaction solution was left to cool to room temperature. Then, ethyl acetate and water were added to the reaction solution, and the organic layer was separated. The organic layer washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate-methanol system) to obtain 38 mg of the title compound. The property value of the compound is as follows.

reactant | 2-(4-fluorophenyl)-4-hydroxy-2-methoxybutyric acid hydrazide | 40 mg | FC1=CC=C(C=C1)C(C(=O)NN)(CCO)OC | C11H15FN2O3
reactant | ethyl (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylimidate dihydrochloride | 65 mg | Cl.Cl.COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(OCC)=N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | ethanol | 1.6 mL | C(C)O | C2H6O
solvent | ethanol | 0.7 mL | C(C)O | C2H6O
product | 3-(4-fluorophenyl)-3-methoxy-3-(5-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-2H-[1,2,4]triazol-3-yl)propan-1-ol | 38 mg | FC1=CC=C(C=C1)C(CCO)(C=1NN=C(N1)\C=C\C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)OC | C25H26FN5O3
